2167-01-23 09:37:00 Physician Attending Progress Note
Chief Complaint: massive hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 BRONCHOSCOPY - At [**2167-1-22**] 07:10 PM, and again at 8am.
   No further hemoptysis off heparin since 6pm.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-1-22**] 08:00 AM
   Levofloxacin - [**2167-1-23**] 06:28 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2167-1-22**] 07:28 PM
   Fentanyl - [**2167-1-22**] 07:28 PM
   Morphine Sulfate - [**2167-1-22**] 09:02 PM
   Other medications:
   levaquin 750 iv q24, ceftriaxone, colace 100 [**Hospital1 **], benzonatate.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-1-23**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.8
   HR: 105 (105 - 132) bpm
   BP: 133/90(99) {129/87(98) - 181/110(127)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,748 mL
                                                                    100 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  3,388 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                    275 mL
   Urine:
                                                                  1,725 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,023 mL
                                                                   -175 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 6L FM
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.5 g/dL
   368 K/uL
   111 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.3 mEq/L
   10 mg/dL
   102 mEq/L
   137 mEq/L
   32.9 %
   19.3 K/uL
        [image002.jpg]
                             [**2167-1-22**]  04:03 AM
                             [**2167-1-22**]  11:40 AM
                             [**2167-1-22**]  11:12 PM
                             [**2167-1-23**]  04:02 AM
   WBC
   23.0
   19.3
   Hct
   35.5
   33.6
   31.9
   32.9
   Plt
   382
   368
   Cr
   0.6
   0.5
   Glucose
   142
   111
   Other labs: PT / PTT / INR:12.3/21.9/1.0, ALT / AST:37/26, Alk Phos / T
   Bili:173/0.4, Differential-Neuts:81.3 %, Lymph:11.4 %, Mono:4.9 %,
   Eos:1.7 %, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Microbiology: legionella culture
   blood culture
   Assessment and Plan
   Hemoptysis: will discuss with oncology and IP re IVC filter placement
   and radiation vs embolization and resuming anticoagulation.
   PULMONARY EMBOLISM (PE), ACUTE: pneumoboots for now, massive hemoptysis
   on heparin.
   Post obstructive pneumonia: change to vanco/zosyn for hospital acquired
   coveration
   H/O CANCER (MALIGNANT NEOPLASM), LUNG: oncology following.
   ICU Care
   Nutrition:
   Comments: NPO for now
   Glycemic Control:
   Lines:
   18 Gauge - [**2167-1-22**] 03:33 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would add:
   46M with remote Hodgkin's, splenectomy; NSCLC  with mets to bone s/p
   chemo- admitted with hemoptysis in the setting of newly dx
d PE
s and
   post-obstructive PNA. Hemoptysis was initially relatively scant, but
   turned massive while on heparin prompting ICU admission. Unable to
   visualize fully by fiberoptic bronchoscopy, transferred to MICU-West
   for rigid bronchoscopy which he underwent earlier today. There was
   blood and blood clots throughout the lung; after evacuation, much of
   the airways looked normal with the exception of the RUL subsegmental
   trifurcation where there was tumor involvement and mucosal friability.
   Since stopping heparin, pt has not had recurrent hemoptysis and he is
   currently on 3 liters n.c. oxygen.
   Therapeutic options of embolization vs radiation discussed with IR and
   rad-onc. With concerns for further injury to lung parenchyma from
   embolization (esp. given known PE), it was decided to proceed with
   radiation. Given the slower onset of radiation to therapeutic effect,
   this raised the question of how to protect him from recurrent PE in the
   interim. IVC filter discussed, but utility questioned with recent
   LENI
s negative for DVT. Instead plan serial LENI
s to monitor.
   Pt is critically ill.
   Total time spent on pt: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3288**], MD
   on:[**2167-1-23**] 16:27 ------
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2167-1-23**] 16:29 ------

2167-01-23 19:25:00 Physician Resident Progress Note
TITLE:
   Please see MICU Green daily progress note for complete [**2167-1-23**] update.
   Briefly, this is a 46M with stage IV NSCLC, remote Hodgkin
s disease,
   initially presented for hemoptysis. Given finding of PE, pt was
   initiated on heparin gtt and hemoptysis worsened, requiring
   bronchoscopy and stopping of heparin gtt. Given malfunction of bronch
   equiptment in east MICU, pt transferred to west MICU green for bronch.
   Pt tolerated rigid bronch well in OR, revealed clot in RUL, washed out.
   After discussion with IR and Rad/Onc and MICU team, plan was determined
   to avoid embolization given concern for worsening infarction. He was
   transferred back to [**Hospital Ward Name **] for initation of radiation to the lung
   cancer in hopes of improving hemoptysis, as well as size of malignancy
   and release of post obstructive infection. Pt is currently off heparin,
   hemodynamically stable. Given negative LENIs, IVC filter has also been
   deferred. No hemoptysis since 1pm today. He is s/p one cycle of chest
   radiation to reduce tumor burden into the airway.
   Flowsheet Data as of  [**2167-1-23**] 07:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 112 (105 - 124) bpm
   BP: 121/88(96) {121/67(86) - 173/99(117)} mmHg
   RR: 18 (14 - 22) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  3,748 mL
                                                                  1,558 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  3,388 mL
                                                                  1,558 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                    650 mL
   Urine:
                                                                  1,725 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,023 mL
                                                                    908 mL
   Physical Examination
   GEN: Anxious middle-aged gentleman in no acute distress.
   CV: Tachycardic, RR, no RMG, no heave
   PULM: CTAB, no WRR
   ABD: Soft, NTND, +BS
   EXT: No edema, pneumoboots on
   Labs / Radiology
   368 K/uL
   10.5 g/dL
   111 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.3 mEq/L
   10 mg/dL
   102 mEq/L
   137 mEq/L
   31.2 %
   19.3 K/uL
        [image002.jpg]
                             [**2167-1-22**]  04:03 AM
                             [**2167-1-22**]  11:40 AM
                             [**2167-1-22**]  11:12 PM
                             [**2167-1-23**]  04:02 AM
                             [**2167-1-23**]  01:02 PM
   WBC
   23.0
   19.3
   Hct
   35.5
   33.6
   31.9
   32.9
   31.2
   Plt
   382
   368
   Cr
   0.6
   0.5
   Glucose
   142
   111
   Other labs: PT / PTT / INR:12.3/21.9/1.0, ALT / AST:37/26, Alk Phos / T
   Bili:173/0.4, Differential-Neuts:81.3 %, Lymph:11.4 %, Mono:4.9 %,
   Eos:1.7 %, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HEMOPTYSIS: Most likely secondary to tumor eroding into airway and
   exacerbated by avastin and recent IV heparin for PE.
   - XRT per rad onc
   - cough suppression
   - airway protection if necessary, consider tamponading right bleed with
   selective intubation, will contact IP if rebleeds
   - also if rebleeds will position on right to spare bleeding into left
   lung
   - transfuse blood as necessary, T+C active, good IV access
   - [**Hospital1 **] HCT checks
   - CXR in AM
   - hold avastin and heparin for now
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
   - Continue Vanc/Zosyn
   - XRT to relieve obstruction
 PULMONARY EMBOLISM (PE), ACUTE: tachycardic but minimally hypoxic.
   - no heparin drip for now
   - pneumoboots
   - daily LENIs
   - no IVC filter as long as LENIs neg
   - consider imaging pelvis for clots
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
   - onc recs, s/p once cycle of [**Doctor Last Name **]/Taxol and avastin
   Continues to be NPO, IVF/RBCs prn
   Pneumoboots for DVT prophylaxis
   Full code, wife is contact

2167-01-24 07:15:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint:Worsening Hemoptysis, on heparin gtt
   for bilateral pulmonary emboli
   Reason for [**Hospital Unit Name 10**] Admission: Close airway monitoring
   24 Hour Events:
 OR SENT - At [**2167-1-23**] 08:00 AM
 OR RECEIVED - At [**2167-1-23**] 09:30 AM
 RADIATION THERAPY - At [**2167-1-23**] 04:41 PM
   [**1-23**]
   - Had some nausea overnight, given zofran
   - Pt with nausea and quarter-sized hemoptysis x 2 given zofran and
   cough suppressants
   - Had [**2-5**] table spoons (moderate) amount of hemoptysis this am and
   desat to 92% on 3LNC, was given more cough suppressant and increased to
   5LNC. IP, IR, and rad onc all made aware.
   -HCT remained stable overnight.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2167-1-23**] 06:28 AM
   Ceftriaxone - [**2167-1-23**] 08:03 AM
   Vancomycin - [**2167-1-23**] 08:22 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-1-24**] 04:14 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2167-1-23**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Nausea
   Flowsheet Data as of  [**2167-1-24**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.7
C (96.3
   HR: 117 (100 - 123) bpm
   BP: 131/75(86) {109/67(85) - 157/97(107)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  2,220 mL
                                                                    844 mL
   PO:
             TF:
   IVF:
                                                                  2,220 mL
                                                                    844 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    850 mL
   Urine:
                                                                    950 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,270 mL
                                                                     -6 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : scattered, Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender:
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   348 K/uL
   10.0 g/dL
   118 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   9 mg/dL
   100 mEq/L
   133 mEq/L
   30.3 %
   12.8 K/uL
        [image002.jpg]
                             [**2167-1-22**]  04:03 AM
                             [**2167-1-22**]  11:40 AM
                             [**2167-1-22**]  11:12 PM
                             [**2167-1-23**]  04:02 AM
                             [**2167-1-23**]  01:02 PM
                             [**2167-1-23**]  08:30 PM
                             [**2167-1-24**]  04:50 AM
   WBC
   23.0
   19.3
   12.8
   Hct
   35.5
   33.6
   31.9
   32.9
   31.2
   30.1
   30.3
   Plt
   382
   368
   348
   Cr
   0.6
   0.5
   0.6
   Glucose
   142
   111
   118
   Other labs: PT / PTT / INR:13.3/24.5/1.1, ALT / AST:37/26, Alk Phos / T
   Bili:173/0.4, Differential-Neuts:81.3 %, Lymph:11.4 %, Mono:4.9 %,
   Eos:1.7 %, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Imaging: BL LE U/S [**2167-1-22**]: IMPRESSION: No evidence of bilateral lower
   extremity DVT.
   Microbiology: [**2167-1-21**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [**2167-1-21**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   Assessment and Plan
 HEMOPTYSIS
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
 PULMONARY EMBOLISM (PE), ACUTE
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 HEMOPTYSIS: Most likely secondary to tumor eroding into airway and
   exacerbated by avastin and recent IV heparin for PE. Desat this AM is
   concerning for bleed although is under control and has not opened up
   for the moment. [**Name2 (NI) **] unfortunately cannot offer further management
   endobronchially.
   - XRT per rad onc, called them to ensure he is first today
   - IR made aware for potential for severe bleed
   - cough suppression and nausea control
   - airway protection if necessary, consider tamponading right bleed with
   selective intubation, will contact IR for emergent embolectomy if
   rebleeds
   - also if openly rebleeds will position on right to spare bleeding into
   left lung
   - transfuse blood as necessary, T+C active, good IV access
   - [**Hospital1 **] HCT checks
   - CXR today, f/u final read
   - hold avastin and heparin for now
   -
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
   - Continue Vanc/Zosyn
   - XRT to relieve obstruction
 PULMONARY EMBOLISM (PE), ACUTE: tachycardic but minimally hypoxic.
   - no heparin drip for now
   - pneumoboots
   - daily LENIs
   - no IVC filter as long as LENIs neg
   - consider imaging pelvis for clots
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
   - onc recs, s/p once cycle of [**Doctor Last Name **]/Taxol and avastin holding for now
   ICU Care
   Nutrition: NPO for now for airway protection
   Glycemic Control:  Not indicated
   Lines:
   18 Gauge - [**2167-1-22**] 03:33 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments: Patient, patient
s wife
   [**Name (NI) 129**] status: Full code
   Disposition: ICU

2167-01-24 08:55:00 Physician Attending Progress Note
Chief Complaint: hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46 yo male with remote Hodgkin's, stag IV NSCLCa
   Admitted with PE- also found to have PE
   24 Hour Events:
 OR SENT - At [**2167-1-23**] 08:00 AM
 OR RECEIVED - At [**2167-1-23**] 09:30 AM
 RADIATION THERAPY - At [**2167-1-23**] 04:41 PM
   Rigid bronchoscopy: RUL with tumor invovlement and airway friability-
   felt to be the likely source
   Rad Onc/Consults yesterday- 1st dose of radiation treatment
   Still with hemoptysis: [**1-9**] Tbps- every several hours
   Desats this morning to 92% on 3 liters nc- now up to 5 liters
   IP, IR, Rad/Onc made aware
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2167-1-23**] 06:28 AM
   Ceftriaxone - [**2167-1-23**] 08:03 AM
   Vancomycin - [**2167-1-23**] 08:22 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-1-24**] 04:14 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2167-1-23**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-1-24**] 08:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.7
C (96.3
   HR: 117 (100 - 123) bpm
   BP: 131/75(86) {109/67(85) - 157/97(107)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  2,220 mL
                                                                    859 mL
   PO:
             TF:
   IVF:
                                                                  2,220 mL
                                                                    859 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    850 mL
   Urine:
                                                                    950 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,270 mL
                                                                      9 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: infrequent rhonchi: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   348 K/uL
   118 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   9 mg/dL
   100 mEq/L
   133 mEq/L
   30.3 %
   12.8 K/uL
        [image002.jpg]
                             [**2167-1-22**]  04:03 AM
                             [**2167-1-22**]  11:40 AM
                             [**2167-1-22**]  11:12 PM
                             [**2167-1-23**]  04:02 AM
                             [**2167-1-23**]  01:02 PM
                             [**2167-1-23**]  08:30 PM
                             [**2167-1-24**]  04:50 AM
   WBC
   23.0
   19.3
   12.8
   Hct
   35.5
   33.6
   31.9
   32.9
   31.2
   30.1
   30.3
   Plt
   382
   368
   348
   Cr
   0.6
   0.5
   0.6
   Glucose
   142
   111
   118
   Other labs: PT / PTT / INR:13.3/24.5/1.1, ALT / AST:37/26, Alk Phos / T
   Bili:173/0.4, Differential-Neuts:81.3 %, Lymph:11.4 %, Mono:4.9 %,
   Eos:1.7 %, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Imaging: [**1-22**] LENI negative
   Assessment and Plan
 HEMOPTYSIS
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
 PULMONARY EMBOLISM (PE), ACUTE
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
   46 yo male with remote Hodgkin's, stg IV NSCLCa, admitted with
   hemoptysis - has PE and post-obstructive PNA but most likely
   originating from RUL due to tumor involvement
   1.       Hemoptysis
   Deemed secondary to tumor invovlement, exacerbated by avastin and IV
   heparin
   Still with recurrent hemoptysis and increased oxygen requirement
   Continue cough suppressant and abx for post-obstructive PNA
   Now undergoing radiation therapy, if he develops massive hemoptysis
   would need to re-consider IR
   Hct
s unchanged, continue serial checks
   2.       Post obstructive PNA
   Remains on Vanc and Zosyn
   3.       PE: off heparin due to recent massive hemoptysis
   Check LENI
   4.       Stg IV NSCLCa: holding avastin due to hemoptysis. Oncology
   team following
   5.       FEN: advance diet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2167-1-22**] 03:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2167-01-25 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - several episodes of small amounts of hemoptysis
   - eating
   - had XRT
   - LENIs tomorrow ([**1-25**])
   - ordered to ambulate around unit TID for ppx
   - codeine added for cough suppression
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2167-1-23**] 06:28 AM
   Ceftriaxone - [**2167-1-23**] 08:03 AM
   Vancomycin - [**2167-1-24**] 07:24 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-1-25**] 04:28 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-1-25**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 101 (98 - 120) bpm
   BP: 123/82(93) {94/68(76) - 145/89(97)} mmHg
   RR: 14 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  2,646 mL
                                                                    100 mL
   PO:
                                                                  1,250 mL
             TF:
   IVF:
                                                                  1,396 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    350 mL
   Urine:
                                                                  2,550 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     96 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Pulm: scattered exp wheezes, reduced BS at bases; CV: tachy, no
   murmurs; Abd: soft nt/nd
   Labs / Radiology
   LENIS: No evidence of bilateral lower extremity DVT.
   CTA:
   1. Bilateral subsegmental pulmonary emboli.
   3. Right upper lobe likely post-obstructive pneumonia.
   3. Multiple spiculated masses in the right lower lobe concerning for
   malignancy.
   4. Left lower lobe greater than right lower lobe, and lingular
   ground-glass
   opacities may represent pneumonia vs edema vs hemorrhage.
   358 K/uL
   10.0 g/dL
   106 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.9 mEq/L
   12 mg/dL
   101 mEq/L
   137 mEq/L
   30.1 %
   15.7 K/uL
        [image002.jpg]
                             [**2167-1-22**]  04:03 AM
                             [**2167-1-22**]  11:40 AM
                             [**2167-1-22**]  11:12 PM
                             [**2167-1-23**]  04:02 AM
                             [**2167-1-23**]  01:02 PM
                             [**2167-1-23**]  08:30 PM
                             [**2167-1-24**]  04:50 AM
                             [**2167-1-24**]  08:18 PM
                             [**2167-1-25**]  04:30 AM
   WBC
   23.0
   19.3
   12.8
   15.7
   Hct
   35.5
   33.6
   31.9
   32.9
   31.2
   30.1
   30.3
   27.8
   30.1
   Plt
   382
   368
   348
   358
   Cr
   0.6
   0.5
   0.6
   0.8
   Glucose
   142
   111
   118
   106
   Other labs: PT / PTT / INR:12.9/23.8/1.1, ALT / AST:37/26, Alk Phos / T
   Bili:173/0.4, Differential-Neuts:81.3 %, Lymph:11.4 %, Mono:4.9 %,
   Eos:1.7 %, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 HEMOPTYSIS
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
 PULMONARY EMBOLISM (PE), ACUTE
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
   46 yo male with remote Hodgkin's, stg IV NSCLCa, admitted with
   hemoptysis - has PE and post-obstructive PNA but most likely
   originating from RUL due to tumor involvement
   HEMOPTYSIS: Secondary to tumor eroding into airway and exacerbated by
   avastin and recent IV heparin for PE. S/p bronchoscopy that was evident
   for tumor involvement of RUL and friability of airways.  S/p XRT.
   - Cont XRT
   - IR aware for potential for severe bleed
   - Cont cough suppression w/ tesslon and codeine
   - T+C active, good IV access
   - Daily HCT checks
   - hold avastin and heparin for now
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
   - Switch Vanc/Zosyn -> Augmentin for aneorobic coverage for total of 14
   days
   - XRT to relieve obstruction
 PULMONARY EMBOLISM (PE), ACUTE: tachycardic but minimally hypoxic.
   - No heparin drip for now
   - pneumoboots
   - Second LENIs
   - Encourage ambulation
   - No IVC filter as long as LENIs neg
   - Consider imaging pelvis for clots
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
   - Onc recs, s/p once cycle of [**Doctor Last Name **]/Taxol and avastin holding for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-1-24**] 08:25 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU Attending Addendum:
   I saw and examined the pt, and was present with the ICU team for the
   key portions of services provided. I agree with Dr. [**Last Name (STitle) **]
s note,
   including assessment and plan. He continued to bring up small amounts
   of hemoptysis but has not had massive hemoptysis since heparin was
   discontinued. Oxygen requirement unchanged at 3 liters n.c.
   On exam, afebrile, scattered faint exp wheezes with BB rales, decreased
   bs at left base and right apex.
   Still with hemoptysis, unchanged amt
   A/P- 46 yo m with remote Hodgkin
s, Stg IV NSCLCa admitted with PE,
   post-obstructive PNA, hemoptysis [**1-6**] tumor airway involvement.
   For hemoptysis [**1-6**] NSCLCa- Unchanged small volume, continue XRT & cough
   suppressants.  IR/emboliziation on hold due to concerns of inducing
   pulmonary infarction in the context of PE, but remains an option if he
   re-develops massive hemoptysis and requires more immediate bleeding
   control . For PE, he remains off anticoagulation, receiving boots for
   DVT , obtain LENI
s.  For post-obstructive PNA: On vancomycin/zosyn
   plan  14 day course but will switch to augmentin for continued
   anaerobic coverage.
   Pt
s status has been unchanged over the weekend; one question is at
   what point would we feel comfortable resuming heparin. Will touch base
   with oncology, rad-onc services.  If we plan to do so soon, it would be
   preferable to monitor him in ICU given concerns for increasing bleeding
   rate. If the risk/benefit ratio does not favor resuming anticoagulation
   in the near future, may consider transferring to floor.
   Pt is critically ill. Total time spent: 33 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2167-1-25**] 04:04 PM ------

2167-01-26 07:04:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint:Worsening Hemoptysis, on heparin gtt
   for bilateral pulmonary emboli
   .
   Reason for [**Hospital Unit Name 10**] Admission: Close airway monitoring
   24 Hour Events:
   [**1-25**]
   - Had several episodes of hemoptysis (one episode ~[**12-8**] cup) slightly
   increased from before.  A hct was checked and was stable ~30.
   - zosyn/vanc abx changed to po aneorobe coverage augmentin 875mg [**Hospital1 **]
   - LENIs ordered tmrw (not done over weekend).
   - heme/onc did not want to start heparin gtt anytime soon bc still has
   hempotysis
   - Pt was hypertensive thought possibly contributed by pain, increased
   frequency of oxycodone and gave ativan
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-1-23**] 08:03 AM
   Piperacillin/Tazobactam (Zosyn) - [**2167-1-25**] 04:28 AM
   Vancomycin - [**2167-1-25**] 08:45 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2167-1-26**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies CP, SOB, last hemopsysis was last night at 10pm.
   Flowsheet Data as of  [**2167-1-26**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 116 (103 - 131) bpm
   BP: 116/89(95) {116/75(86) - 166/105(117)} mmHg
   RR: 21 (12 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
                  Total In:
                                                                  1,400 mL
                                                                    150 mL
   PO:
                                                                  1,100 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    800 mL
   Urine:
                                                                  1,550 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -150 mL
                                                                   -650 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   GEN: Thin, middle aged man, in NAD
   CV: RRR,  no RMG
   PULM: CTAB, no WRR
   ABD: Soft, NTND, +BS
   EXT: No edema
   Labs / Radiology
   389 K/uL
   9.9 g/dL
   113 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.0 mEq/L
   15 mg/dL
   100 mEq/L
   138 mEq/L
   28.4 %
   14.4 K/uL
                             [**2167-1-22**]  11:40 AM
                             [**2167-1-22**]  11:12 PM
                             [**2167-1-23**]  04:02 AM
                             [**2167-1-23**]  01:02 PM
                             [**2167-1-23**]  08:30 PM
                             [**2167-1-24**]  04:50 AM
                             [**2167-1-24**]  08:18 PM
                             [**2167-1-25**]  04:30 AM
                             [**2167-1-25**]  06:50 PM
                             [**2167-1-26**]  04:02 AM
   WBC
   19.3
   12.8
   15.7
   14.4
   Hct
   33.6
   31.9
   32.9
   31.2
   30.1
   30.3
   27.8
   30.1
   30.1
   28.4
   Plt
   368
   348
   358
   389
   Cr
   0.5
   0.6
   0.8
   0.7
   Glucose
   111
   118
   106
   113
   Other labs: PT / PTT / INR:12.8/23.2/1.1, ALT / AST:37/26, Alk Phos / T
   Bili:173/0.4, Differential-Neuts:81.3 %, Lymph:11.4 %, Mono:4.9 %,
   Eos:1.7 %, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR AP [**2167-1-26**]:
   One portable view. Comparison with [**2167-1-24**]. Right hilar mass is again
   demonstrated. There is interval improvement in right upper lobe volume
   loss.  Left lung remains clear. The heart and mediastinal structures
   are unchanged.
   IMPRESSION: Interval improvement in right upper lobe atelectasis.
   Microbiology: [**2167-1-21**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [**2167-1-21**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   Assessment and Plan
 INEFFECTIVE COPING
 HEMOPTYSIS
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
 PULMONARY EMBOLISM (PE), ACUTE
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
   46 yo male with remote Hodgkin's, stg IV NSCLCa, admitted with
   hemoptysis - has PE and post-obstructive PNA but most likely
   originating from RUL due to tumor involvement
HEMOPTYSIS: Likely secondary to tumor eroding into airway and
   exacerbated by avastin and recent IV heparin for PE. S/p bronchoscopy
   that was evident for tumor involvement of RUL and friability of
   airways.  S/p XRT.
   - XRT today, last dose for now, will defer to rad onc whether further
   treatments are indicated
   - IR aware for potential for severe bleed
   - Cont cough suppression w/ tesslon and codeine
   - T+C active, good IV access
   - [**Hospital1 **] HCT today
   - hold avastin and heparin for now
   - Likely restarting chemo (see below)
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
   - Switch Vanc/Zosyn -> Augmentin for aneorobic coverage for total of 14
   days
   - XRT to relieve obstruction and improve hemoptysis
 DVT: Presumably new LLE venous thrombosis secondary to underlying
   malignancy. Discussed with hem/onc who agrees with this plan.
   - IVC filter today
   - NPO
 PULMONARY EMBOLISM (PE), ACUTE: tachycardic but minimally hypoxic.
   - No heparin drip for now, will likely hold off until hemoptysis
   resolves,
   - Pneumoboots on RLE only (given new LLE DVT)
   - IVC filter per above
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
   - Onc recs, s/p once cycle of [**Doctor Last Name **]/Taxol and avastin holding for now
   - Will likely restart [**Doctor Last Name 1793**]/taxol tomorrow per hem/onc, will continue
   to hold avastin
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-1-24**] 08:25 PM
   18 Gauge - [**2167-1-25**] 05:48 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now depending on anticoaggulation

2167-01-26 12:13:00 Physician Attending Progress Note
Chief Complaint: Hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46 y.o. man with HL, recently diagnosed lung mass, PEs, DVT, hemoptysis
   getting XRT
   24 Hour Events:
   Per nursing [**1-7**] tbspoons overnight
   Continues off heparin
   LENIs this morning - left posterior tibial clot
   Hct 28.4 down from 30
   Zosyn/vanco changed to po augmentin
   More pain overnight in right hip (bone mets) - oxycodone increased
    FiO2 increased from 3 to 4 L NC in setting of mild desaturations
   overnight
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2167-1-25**] 04:28 AM
   Vancomycin - [**2167-1-25**] 08:45 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2167-1-26**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: [**12-6**] Minimal
   Pain location: right hip
   Flowsheet Data as of  [**2167-1-26**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 123 (112 - 131) bpm
   BP: 137/89(99) {116/73(85) - 166/105(117)} mmHg
   RR: 13 (12 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
                  Total In:
                                                                  1,400 mL
                                                                    870 mL
   PO:
                                                                  1,100 mL
                                                                    630 mL
   TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    800 mL
   Urine:
                                                                  1,550 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -150 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   389 K/uL
   113 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.0 mEq/L
   15 mg/dL
   100 mEq/L
   138 mEq/L
   28.4 %
   14.4 K/uL
        [image002.jpg]
                             [**2167-1-22**]  11:40 AM
                             [**2167-1-22**]  11:12 PM
                             [**2167-1-23**]  04:02 AM
                             [**2167-1-23**]  01:02 PM
                             [**2167-1-23**]  08:30 PM
                             [**2167-1-24**]  04:50 AM
                             [**2167-1-24**]  08:18 PM
                             [**2167-1-25**]  04:30 AM
                             [**2167-1-25**]  06:50 PM
                             [**2167-1-26**]  04:02 AM
   WBC
   19.3
   12.8
   15.7
   14.4
   Hct
   33.6
   31.9
   32.9
   31.2
   30.1
   30.3
   27.8
   30.1
   30.1
   28.4
   Plt
   368
   348
   358
   389
   Cr
   0.5
   0.6
   0.8
   0.7
   Glucose
   111
   118
   106
   113
   Other labs: PT / PTT / INR:12.8/23.2/1.1, ALT / AST:37/26, Alk Phos / T
   Bili:173/0.4, Differential-Neuts:81.3 %, Lymph:11.4 %, Mono:4.9 %,
   Eos:1.7 %, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 HEMOPTYSIS:  [**Month (only) 11**] be multifactorial given diagnosed PEs,
   postobstructive PNA, and lung mass.  Most significantly the latter,
   getting managed with cough suppressants, oxygen, and XRT.  Active type
   and screen, adequate IV access. Continues augmentin as below.   Given
   significant hemoptysis will continue to monitor in the ICU.
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP), postobstructive
   component.  Antibiotics switched to augmentin.
 PULMONARY EMBOLISM (PE), ACUTE;  Still unable to use heparin.  Repeat
   LENIs reportedly show left DVT, will review final report.  Will need to
   proceed to filter.
 H/O CANCER (MALIGNANT NEOPLASM), LUNG:  NSCLCa with hemoptysis
   getting XRT, received today.  Cough suppressants seem to be helping.
   Need to clarify course of XRT.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2167-1-25**] 05:48 PM
   20 Gauge - [**2167-1-26**] 10:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2167-01-27 07:12:00 Physician Resident Progress Note
Chief Complaint: hemoptysis
   24 Hour Events:
 ULTRASOUND - At [**2167-1-26**] 08:00 AM
   LENIs
 RADIATION THERAPY - At [**2167-1-26**] 11:00 AM
   - Onc recs: agree with heparin hold, IVC filter, continuing radiation,
   chemotherapy to be administered on [**2167-1-28**] without avastin and dose
   reduction of paclitaxel.
   - Ir/IVC filter: to be placed tomorrow.
   - Talked with wife
   - Had episode of hemoptysis [**Date range (1) 11146**] cup at 4am
   - Desatted at 6am and placed on 100% FiO2 face mask in low 90s, ABG pH
   7.44 pCO2 45 pO2 93 HCO3 32 BaseXS 5, and CXR with recurrence of RUL
   collapse
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2167-1-25**] 04:28 AM
   Vancomycin - [**2167-1-25**] 08:45 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: less hemoptysis than yesterday
   Gastrointestinal: No(t) Abdominal pain
   Musculoskeletal: hip pain well controlled with xoycodone
   Flowsheet Data as of  [**2167-1-27**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.5
   HR: 118 (112 - 127) bpm
   BP: 107/74(82) {107/73(82) - 144/96(104)} mmHg
   RR: 21 (13 - 25) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  2,595 mL
                                                                    809 mL
   PO:
                                                                  1,230 mL
             TF:
   IVF:
                                                                  1,125 mL
                                                                    809 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    550 mL
   Urine:
                                                                  1,650 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    945 mL
                                                                    259 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 90%
   ABG: 7.44/45/92.[**Numeric Identifier 641**]/28/5
   PaO2 / FiO2: 98
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes : ,
   Rhonchorous: ), crackles and wheezes throughout
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   335 K/uL
   8.9 g/dL
   131 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   15 mg/dL
   98 mEq/L
   136 mEq/L
   26.1 %
   14.7 K/uL
        [image002.jpg]
                             [**2167-1-23**]  01:02 PM
                             [**2167-1-23**]  08:30 PM
                             [**2167-1-24**]  04:50 AM
                             [**2167-1-24**]  08:18 PM
                             [**2167-1-25**]  04:30 AM
                             [**2167-1-25**]  06:50 PM
                             [**2167-1-26**]  04:02 AM
                             [**2167-1-26**]  02:23 PM
                             [**2167-1-27**]  04:04 AM
                             [**2167-1-27**]  06:33 AM
   WBC
   12.8
   15.7
   14.4
   14.7
   Hct
   31.2
   30.1
   30.3
   27.8
   30.1
   30.1
   28.4
   27.7
   26.1
   Plt
   348
   358
   389
   335
   Cr
   0.6
   0.8
   0.7
   0.8
   TCO2
   32
   Glucose
   118
   106
   113
   131
   Other labs: PT / PTT / INR:12.8/23.2/1.1, Ca++:8.2 mg/dL, Mg++:2.2
   mg/dL, PO4:3.3 mg/dL
   Imaging: .
   Microbiology: .
   Assessment and Plan
   46 yo male with remote Hodgkin's, stg IV NSCLCa, admitted with
   hemoptysis - has PE and post-obstructive PNA but most likely
   originating from RUL due to tumor involvement
HYPOXIA:
   New this am. CXR with recurrence of RUL collapse but similar to CXR
   from several days prior and he was not hypoxic at that time.  No
   evidence of aspiration or PNA. Concern is for PE.  Poor candidate for
   anticoagulation given ongoing hemoptysis.  Other possibilities include
   infection, hypoventilation.
   - IVC filter to be placed today
   - OOB to chair after IVC filter
   - Wean as tolerated
HEMOPTYSIS: Likely secondary to tumor eroding into airway and
   exacerbated by avastin and recent IV heparin for PE. S/p bronchoscopy
   that was evident for tumor involvement of RUL and friability of
   airways.  S/p XRT.
   - Plan for chemo and XRT (see below); no XRT today
   - f/u rad once recs
   - IR aware for potential for severe bleed
   - Cont cough suppression w/ tesslon and codeine
   - T+C active, good IV access
   - [**Hospital1 **] HCT today; transfuse for hct <24
   - Cont holding avastin and heparin
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
   - Switch Vanc/Zosyn -> Augmentin for aneorobic coverage for total of 14
   days: last day is [**2-3**]
 DVT: Presumably new LLE venous thrombosis secondary to underlying
   malignancy. Discussed with hem/onc who agrees with this plan.
   - IVC filter today
   - NPO
 PULMONARY EMBOLISM (PE), ACUTE: tachycardic and now hypoxic.
   - No heparin drip for now, will hold off until hemoptysis resolves
   - Pneumoboots on RLE only (given new LLE DVT)
   - IVC filter per above
   - monitor vitals for now, no need to embolectomy
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
   - Onc recs, s/p once cycle of [**Doctor Last Name **]/Taxol and avastin holding for now
   - Will likely restart [**Doctor Last Name 1793**]/taxol tomorrow per hem/onc, will continue
   to hold avastin
   Goals of Care:
   Schedule family meeting w/ ICU team, heme/onc, rad onc
 HEMOPTYSIS
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
 PULMONARY EMBOLISM (PE), ACUTE
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 INEFFECTIVE COPING
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2167-1-25**] 05:48 PM
   20 Gauge - [**2167-1-26**] 10:35 AM
   Prophylaxis:
   DVT: Boots(on right leg only, IVC filter today)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2167-01-27 09:47:00 Physician Attending Progress Note
Chief Complaint: hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2167-1-26**] 08:00 AM
   LENIs
 RADIATION THERAPY - At [**2167-1-26**] 11:00 AM
   Continues to have hemoptysis, ~ [**12-6**] cup early this am, new blood in
   basin, desaturation with epidsode.
                              History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2167-1-25**] 04:28 AM
   Vancomycin - [**2167-1-25**] 08:45 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2167-1-27**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.4
C (97.6
   HR: 121 (112 - 127) bpm
   BP: 109/73(81) {94/73(78) - 144/96(104)} mmHg
   RR: 22 (13 - 25) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  2,595 mL
                                                                    835 mL
   PO:
                                                                  1,230 mL
             TF:
   IVF:
                                                                  1,125 mL
                                                                    835 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    550 mL
   Urine:
                                                                  1,650 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    945 mL
                                                                    285 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: 7.44/45/92.[**Numeric Identifier 641**]/28/5
   PaO2 / FiO2: 98
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered, Rhonchorous:
   scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   335 K/uL
   131 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   15 mg/dL
   98 mEq/L
   136 mEq/L
   26.1 %
   14.7 K/uL
        [image002.jpg]
                             [**2167-1-23**]  01:02 PM
                             [**2167-1-23**]  08:30 PM
                             [**2167-1-24**]  04:50 AM
                             [**2167-1-24**]  08:18 PM
                             [**2167-1-25**]  04:30 AM
                             [**2167-1-25**]  06:50 PM
                             [**2167-1-26**]  04:02 AM
                             [**2167-1-26**]  02:23 PM
                             [**2167-1-27**]  04:04 AM
                             [**2167-1-27**]  06:33 AM
   WBC
   12.8
   15.7
   14.4
   14.7
   Hct
   31.2
   30.1
   30.3
   27.8
   30.1
   30.1
   28.4
   27.7
   26.1
   Plt
   348
   358
   389
   335
   Cr
   0.6
   0.8
   0.7
   0.8
   TCO2
   32
   Glucose
   118
   106
   113
   131
   Other labs: PT / PTT / INR:12.8/23.2/1.1, ALT / AST:37/26, Alk Phos / T
   Bili:173/0.4, Differential-Neuts:81.3 %, Lymph:11.4 %, Mono:4.9 %,
   Eos:1.7 %, Lactic Acid:1.4 mmol/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
 HEMOPTYSIS:  Continues to have hemoptysis.  On cough suppressants.
 PNEUMONIA, POSTOBSTRUCTIVE:  Continues augmentin.
 PULMONARY EMBOLISM (PE), ACUTE/LEFT CALF DVT:  Continue to hold
   anticoagulation.  To go to IR for IVC filter placement this morning.
 CANCER (MALIGNANT NEOPLASM), LUNG:  Will need to follow up with
   radiation oncology regarding plans for further radiation treatments.
   To begin chemoRx per oncology tomorrow.
 INEFFECTIVE COPING:  Social work following along.  Family would
   benefit from all services involved sitting together to go over plan
   with wife and family.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2167-1-25**] 05:48 PM
   20 Gauge - [**2167-1-26**] 10:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2167-01-28 07:15:00 Physician Resident Progress Note
Chief Complaint: hemopysis, NSCLC, PE, hematuria
   24 Hour Events:
   - IVC filter placed
   - XRT: total of 11 radiation treatments.  Because he is getting
   concurrent chemo, no more than 4 in a row at any one time.  off
   Tues/Wed, continue Thurs, Fri, and in to next week
   - very tachy in the pm and also slightly hypotensive. HCt 24.7.
   transfused 1 unit, gave IVF 2LNS
   - family meeting today 6pm
   - emesis after augmentin x1 200cc with some dark blood
   - had hematuria
   - 3 way foley placed. q2h flushes and if clots, will start cbi
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2167-1-25**] 08:45 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2167-1-28**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Weight loss
   Cardiovascular: Tachycardia
   Genitourinary: Dysuria, Foley
   Pain: [**2-5**] Mild
   Pain location: suprapubic
   Flowsheet Data as of  [**2167-1-28**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 132 (118 - 141) bpm
   BP: 133/98(106) {95/60(70) - 133/100(108)} mmHg
   RR: 21 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  3,985 mL
                                                                    311 mL
   PO:
                                                                    720 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,981 mL
                                                                     71 mL
   Blood products:
                                                                    284 mL
   Total out:
                                                                  1,615 mL
                                                                    163 mL
   Urine:
                                                                  1,415 mL
                                                                    163 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  2,370 mL
                                                                    148 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic),
   tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : right, Wheezes : improved from yesterday)
   Abdominal: Soft, Bowel sounds present, Tender: suprapubic
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing, some numbness over right
   groin site of preocedure
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   219 K/uL
   9.3 g/dL
   185 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.2 mEq/L
   27 mg/dL
   95 mEq/L
   133 mEq/L
   27.4 %
   22.6 K/uL
        [image002.jpg]
                             [**2167-1-24**]  08:18 PM
                             [**2167-1-25**]  04:30 AM
                             [**2167-1-25**]  06:50 PM
                             [**2167-1-26**]  04:02 AM
                             [**2167-1-26**]  02:23 PM
                             [**2167-1-27**]  04:04 AM
                             [**2167-1-27**]  06:33 AM
                             [**2167-1-27**]  12:24 PM
                             [**2167-1-27**]  09:43 PM
                             [**2167-1-28**]  04:32 AM
   WBC
   15.7
   14.4
   14.7
   24.6
   22.6
   Hct
   27.8
   30.1
   30.1
   28.4
   27.7
   26.1
   24.7
   25.6
   27.4
   Plt
   358
   389
   335
   251
   219
   Cr
   0.8
   0.7
   0.8
   1.3
   TCO2
   32
   Glucose
   106
   113
   131
   185
   Other labs:
   PT / PTT / INR: 14.7 / 28.8 / 1.3
   CK: 80
   ALT / AST: 37 / 26, Alk Phos / T Bili: 173 / 0.4,
   N:82.1 L:12.6 M:5.0 E:0.1 Bas:0.3
   Fibrinogen:190 mg/dL,
   LDH : 364 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Hapto: 447
   Fibrinogen: 190
   FDP: [**Telephone/Fax (1) 7665**]
   GENERAL URINE INFORMATION
                                    Type
                                    Color
                                   Appear
                                   Sp [**Last Name (un) **]
   [1][**2167-1-27**] 10:03PM
   RED
                                   Cloudy
                                    1.030
   DIPSTICK URINALYSIS
                                    Blood
                                   Nitrite
                                   Protein
                                   Glucose
                                   Ketone
                                   Bilirub
                                   Urobiln
                                     pH
                                    Leuks
   [2][**2167-1-27**] 10:03PM
                                     LG
                                     NEG
                                     100
                                     NEG
                                     TR
                                     NEG
                                     NEG
                                     5.5
                                     MOD
   MICROSCOPIC URINE EXAMINATION
                                     RBC
                                     WBC
                                   Bacteri
                                    Yeast
                                     Epi
                                   TransE
                                   RenalEp
   [3][**2167-1-27**] 10:03PM
                                   >1000*
                                    156*
                                    NONE
                                    NONE
                                      0
   Imaging:
   CXR looks improved in RUL, no other change (my rerad)
   Microbiology:
   No new growth
   Assessment and Plan
   46 yo male with remote Hodgkin's, stg IV NSCLCa, admitted with
   hemoptysis - has PE and post-obstructive PNA but most likely
   originating from RUL due to tumor involvement
 Hematuria
   Can be secondary to UTI, foley trauma, thrombotic event.  In regards to
   his DIC labs, FDPs elevated but has PE, and haptoglobin not low and t
   bili not elevated. Coags Ok. Also with creatinine bump. Perhaps would
   consider Renal source of blood as there are not clots. DDx would
   include thrombotic disease vs possible complication of IVC placement (?
   Potential for venous occlusion by clots)
   - continue flushing bladder
   - follow up urine culture/lytes
   - discuss with IR potential complications
   - monitor creatinine
   - [**Hospital1 **] hct
ARF: Possibly in the setting of hypotension (ATN), contrast induced,
   infection (UTI).
   - Urine sediments
   - Urine lytes
   - 1L NS bolus
Leukocytosis: Being treated for post-obstructive pna.  Possible UTI.
   - Urine cx
   - Blood cx
   - If spikes can broaden abx
   - discuss with onc whether okay to do chemo with new leukocytosis
HYPOXIA:
   Likely [**1-6**] PE. Now with IVC filter. CXR slightly improved today and
   requiring less FiO2. No evidence of aspiration or PNA. Infection
   remains possibility.
   - IVC filter in place
   - OOB to chair
   - Wean as tolerated
HEMOPTYSIS: Likely secondary to tumor eroding into airway and
   exacerbated by avastin and recent IV heparin for PE. S/p bronchoscopy
   that was evident for tumor involvement of RUL and friability of
   airways.  S/p XRT.
   - Plan for chemo and XRT: no XRT today
   - f/u rad once recs
   - IR aware for potential for severe bleed
   - Cont cough suppression w/ tesslon and codeine
   - T+C active, good IV access
   - [**Hospital1 **] HCT; transfuse for hct <24
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
   Originally treated w/ Vanc/Zosyn switched to Augmentin for aneorobic
   coverage for total of 14 days: last day is [**2-3**]
   - Switch Augmentin to Unasyn today as he will be receiving chemo
 PULMONARY EMBOLISM (PE), ACUTE/DVT: tachycardic and hypoxic.
   - No heparin
   - Pneumoboots on RLE only (given new LLE DVT)
   - IVC filter placed
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
   - Onc recs, s/p once cycle of [**Doctor Last Name **]/Taxol and avastin holding for now
   - Will likely restart [**Doctor Last Name 1793**]/taxol [**Last Name (un) **] (but will discuss with onc given
   new leukocytosis)y per hem/onc, no avastin
 Goals of Care: Family meeting w/ ICU team, heme/onc, rad onc at
   6:30pm today
 HEMOPTYSIS
 HYPOXEMIA
 PULMONARY EMBOLISM (PE), ACUTE
 CANCER (MALIGNANT NEOPLASM), LUNG
   NSC
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
   post-obstructive
 INEFFECTIVE COPING
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
   Hodgkins
   ICU Care
   Nutrition: regular
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-1-26**] 10:35 AM
   18 Gauge - [**2167-1-27**] 01:00 PM
   Prophylaxis:
   DVT: Boots, IVC filter(on RLE)
   Stress ulcer: will start if gets decadron
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient with the medical ICU resident and was
   present during key portions of the services provided.  The assessment
   and plan was discussed and is detailed above.  I would emphasize and
   add the following.  IVC filter placed yesterday.  No further hemopysis
   overnight.  Guaic positive dark stools. New onset hematuris.
   Comfortable lying in bed, denies pain.  Weak.  Lungs with occasional
   rhonchi Abdomen soft, normal bowel sounds  No palpable cords in lower
   extremities left leg swelling slight increased.
   WBC elevated, given hematuria have sent urine for UA, C & S.  Need to
   check with oncology to see if this will delay chemoRx initiation
   today.
   ARF post filter placement, may be secondary to prerenal and possible
   dye related.  Has received fluids overnight for tachycardia and low BP
   to rehydrate.  Also transfused one unit pRBCs.
   Family meeting with oncology service and MICU team at 6:30 pm today.
   Patient is critically ill
   Time spent:  30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2167-1-28**] 11:48 ------
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);

2167-01-29 07:41:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint:Worsening Hemoptysis, on heparin gtt
   for bilateral pulmonary emboli
   .
   Reason for [**Hospital Unit Name 10**] Admission: Close airway monitoring
   .
   24 Hour Events:
   [**1-28**]
   -Onc course:
   7 days of filgrastim
   Premedicated w/ dexamethasone, famotidine, zofran, benadryl
   Received carboplatin, paclitaxel (day 1)
   -Got KUB to evaluate for clot migration and IR did not think that IVC
   filter could explain hematuria as it was below the renal veins.
   -FeNa 0 c/w prenal, no comment on muddy brown casts, eos negative,
   urine w/ proteinuria and RBC
   -PM labs: hct drop from 27->22.9, got 1 unit pRBC; Cr improved to 0.9
   after receiving 1L NS
   -Urine through foley at times pink but mostly yellow; cleared up
   throughout the night
   -Stool neg for c diff, urine pnd
   -Did not have further episodes of hemoptysis through the night.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2167-1-29**] 05:08 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2167-1-28**] 02:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies CP, SOB, hemoptysis in last 24 hours, denies calf pain.
   Flowsheet Data as of  [**2167-1-29**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 117 (115 - 131) bpm
   BP: 141/101(109) {102/74(78) - 160/104(124)} mmHg
   RR: 14 (13 - 20) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
           Total In:
                                                                  2,628 mL
                                                                    553 mL
   PO:
                                                                  1,090 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,340 mL
                                                                    276 mL
   Blood products:
                                                                    198 mL
                                                                    177 mL
   Total out:
                                                                    803 mL
                                                                    500 mL
   Urine:
                                                                    803 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,825 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   GEN: Looks better overall, thin man in NAD
   CV: RRR, no RMG
   PULM: CTAB, no WRR
   ABD: Soft, NTND, +bladder TTP, +BS, no rebound or guarding
   EXT: Increasing LLE edema, no edema on RLE
   Labs / Radiology
   143 K/uL
   9.0 g/dL
   151 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.8 mEq/L
   30 mg/dL
   96 mEq/L
   131 mEq/L
   26.7 %
   19.7 K/uL
        [image002.jpg]
                             [**2167-1-25**]  06:50 PM
                             [**2167-1-26**]  04:02 AM
                             [**2167-1-26**]  02:23 PM
                             [**2167-1-27**]  04:04 AM
                             [**2167-1-27**]  06:33 AM
                             [**2167-1-27**]  12:24 PM
                             [**2167-1-27**]  09:43 PM
                             [**2167-1-28**]  04:32 AM
                             [**2167-1-28**]  05:30 PM
                             [**2167-1-29**]  06:13 AM
   WBC
   14.4
   14.7
   24.6
   22.6
   26.3
   19.7
   Hct
   30.1
   28.4
   27.7
   26.1
   24.7
   25.6
   27.4
   22.9
   26.7
   Plt
   389
   335
   251
   [**Telephone/Fax (3) 11207**]
   Cr
   0.7
   0.8
   1.3
   0.9
   0.9
   TCO2
   32
   Glucose
   113
   131
   185
   151
   Other labs: PT / PTT / INR:13.6/25.7/1.2, CK / CKMB / Troponin-T:80//,
   ALT / AST:37/26, Alk Phos / T Bili:173/1.0, Differential-Neuts:91.2 %,
   Lymph:4.9 %, Mono:3.7 %, Eos:0.0 %, Fibrinogen:190 mg/dL, Lactic
   Acid:1.4 mmol/L, LDH:390 IU/L, Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:2.4
   mg/dL
   Imaging: KUB [**2167-1-28**]:
   PFI: IVC filter at the level of the L2 vertebral body.
   CXR AP [**2167-1-28**]:
   FINDINGS: As compared to the previous radiograph, the pre-existing
   partial right upper lobe atelectasis has decreased in extent. However,
   remaining signs of volume loss in the right upper lobe are still
   visible. The lung parenchyma in the right upper lobe is increased in
   density. Simultaneously, the mediastinal structures are widened,
   showing several abnormal contours and thereby suggesting hilar
   adenopathy. On the basis of these findings, a partially obstructive
   pneumonia must be suspected.
   Otherwise, no relevant changes are seen. The overall lung volumes have
   slightly decreased in the interval. The size of the cardiac silhouette
   is
   unchanged. There is no evidence of pleural effusions.
   Microbiology: [**2167-1-28**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B
   TEST-FINAL INPATIENT
   [**2167-1-28**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2167-1-27**]  URINE URINE CULTURE-FINAL INPATIENT
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 HEMOPTYSIS
 HYPOXEMIA
 PULMONARY EMBOLISM (PE), ACUTE
 CANCER (MALIGNANT NEOPLASM), LUNG
   NSC
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
   post-obstructive
 INEFFECTIVE COPING
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
   Hodgkins
   46 yo male with remote Hodgkin's, stg IV NSCLCa, admitted with
   hemoptysis - has PE and post-obstructive PNA but most likely
   originating from RUL due to tumor involvement.
 Hematuria
   Resolved. Most likely secondary to traumatic foley placement given h/o
   pain with foley placement.  Could be secondary to UTI, thrombotic event
   unlikely given negative DIC labs.  In regards to his DIC labs, FDPs
   elevated but has PE, and haptoglobin not low and t bili not elevated.
   Coags stable and not significantly elevated. IVC filter placement
   unlikely to cause this as these were placed below renal veins.
   - DC foley
   - follow up urine culture
   - monitor creatinine
   - [**Hospital1 **] hct
ARF: Resolving. BUN still elevated. Possibly in the setting of
   hypotension (ATN), contrast induced, infection (UTI).
   - Urine sediments
   - Repeat urine lytes
   - Monitor cr
Leukocytosis: Improving. Being treated for post-obstructive pna.
   Possible UTI.
   - F/u Urine cx
   - F/u Blood cx
   - If spikes can broaden abx
   - discuss with onc whether okay to do chemo with new leukocytosis
HYPOXIA:
   Likely [**1-6**] PE. Now with IVC filter. CXR slightly improved today and
   requiring less FiO2. No evidence of aspiration or PNA. Infection
   remains possibility.
   - IVC filter in place
   - OOB to chair
   - Wean as tolerated
HEMOPTYSIS: Likely secondary to tumor eroding into airway and
   exacerbated by avastin and recent IV heparin for PE. S/p bronchoscopy
   that was evident for tumor involvement of RUL and friability of
   airways.  S/p XRT.
   - Plan for chemo and XRT: no XRT today
   - f/u rad once recs
   - IR aware for potential for severe bleed
   - Cont cough suppression w/ tesslon and codeine
   - T+C active, good IV access
   - [**Hospital1 **] HCT; transfuse for hct <24
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
   Originally treated w/ Vanc/Zosyn switched to Augmentin for aneorobic
   coverage for total of 14 days: last day is [**2-3**]
   - Switch Augmentin to Unasyn today as he will be receiving chemo
 PULMONARY EMBOLISM (PE), ACUTE/DVT: tachycardic and hypoxic.
   - No heparin
   - Pneumoboots on RLE only (given new LLE DVT)
   - IVC filter placed
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
   - Onc recs, s/p once cycle of [**Doctor Last Name **]/Taxol and avastin holding for now
   - Will likely restart [**Doctor Last Name 1793**]/taxol [**Last Name (un) **] (but will discuss with onc given
   new leukocytosis)y per hem/onc, no avastin
 Goals of Care: Patient
s wife up to date on prognosis after
   discussion with oncologist. Pt and wife not interested in further
   family meeting with ICU team for the time being.
   ICU Care
   Nutrition: regular
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-1-26**] 10:35 AM
   18 Gauge - [**2167-1-27**] 01:00 PM
   Prophylaxis:
   DVT: Boots, IVC filter(on RLE)
   Stress ulcer: Not indicated given short course of steroids.
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to oncology floor

2167-01-29 11:54:00 Physician Attending Progress Note
Chief Complaint: hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   KUB checked to evaluate IVC filter placement, below renal veins
   FeNa = 0
   Given pRBCs and IVF boluses
   Hematuria resolved grossly
   No episodes of hemoptysis overnight
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2167-1-29**] 05:08 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2167-1-28**] 02:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, occasional, no hemoptysis
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2167-1-29**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36
C (96.8
   HR: 121 (115 - 133) bpm
   BP: 110/68(75) {102/68(75) - 160/104(124)} mmHg
   RR: 18 (13 - 21) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
           Total In:
                                                                  2,628 mL
                                                                    592 mL
   PO:
                                                                  1,090 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,340 mL
                                                                    315 mL
   Blood products:
                                                                    198 mL
                                                                    177 mL
   Total out:
                                                                    803 mL
                                                                    760 mL
   Urine:
                                                                    803 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,825 mL
                                                                   -168 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Trace, calf swelling increased, no palpable cord
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): A & O x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.0 g/dL
   143 K/uL
   151 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.8 mEq/L
   30 mg/dL
   96 mEq/L
   131 mEq/L
   26.7 %
   19.7 K/uL
        [image002.jpg]
                             [**2167-1-25**]  06:50 PM
                             [**2167-1-26**]  04:02 AM
                             [**2167-1-26**]  02:23 PM
                             [**2167-1-27**]  04:04 AM
                             [**2167-1-27**]  06:33 AM
                             [**2167-1-27**]  12:24 PM
                             [**2167-1-27**]  09:43 PM
                             [**2167-1-28**]  04:32 AM
                             [**2167-1-28**]  05:30 PM
                             [**2167-1-29**]  06:13 AM
   WBC
   14.4
   14.7
   24.6
   22.6
   26.3
   19.7
   Hct
   30.1
   28.4
   27.7
   26.1
   24.7
   25.6
   27.4
   22.9
   26.7
   Plt
   389
   335
   251
   [**Telephone/Fax (3) 11207**]
   Cr
   0.7
   0.8
   1.3
   0.9
   0.9
   TCO2
   32
   Glucose
   113
   131
   185
   151
   Other labs: PT / PTT / INR:13.6/25.7/1.2, CK / CKMB / Troponin-T:80//,
   ALT / AST:37/26, Alk Phos / T Bili:173/1.0, Differential-Neuts:91.2 %,
   Lymph:4.9 %, Mono:3.7 %, Eos:0.0 %, Fibrinogen:190 mg/dL, Lactic
   Acid:1.4 mmol/L, LDH:390 IU/L, Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
 HEMOPTYSIS:  No hemoptysis.  Continues XRT.  Stable for transfer to
   the oncology floor as the hemoptysis was main issue for transfer to the
   ICU.
 HYPOXEMIA:  FiO2 weaned down to 3L.  Denies cough.  On antibiotics
   for postobstructive PNA.  WBC had bumped and is now trending down.
 PULMONARY EMBOLISM (PE), ACUTE/ LLE DVT:  Holding anticoagulation
   given hemoptysis in seeting of lung tumor.  His LLE is markedly more
   swollen this morning with known DVT which prompted placementof IVC
   filter.   Would hold on anticoagulation and follow clinically for
   now.
 ACUTE RENAL FAILURE:  Secondary to dehydration/prerenal state.
   Improved with volume replacement.  BUN still increased albeit has other
   reasons for this (steroids, swallowing old blood).
 CANCER (MALIGNANT NEOPLASM), LUNG
   NSCLCa with bone mets.  Pain adequately controlled.
 PNEUMONIA, [**Hospital 3154**] HOSPITAL ACQUIRED (NON-VAP)
   post-obstructive, completing abx course until [**2-3**].
 HEMATURIA:  Resolved, UCx NGTD
 H/O CANCER (MALIGNANT NEOPLASM), LUNG, NSCLCa WITH METS:  Started
   chemoRx yesterday, tolerated well.  To continue with radiation
   treatments today and tomorrow.
   Hodgkins
   Had discussion with wife and reiterated what oncology had talked with
   her about regarding prognosis, on average 12 month survival albeit
   given his complications (hemoptysis) this may be less.  Also talked to
   her about the unpredictability of whether he will have further
   hemoptysis, may be at increased risk with necrosis in setting of
   chemoRx, also will be completing XRT.  Wife has signed HCP, waiting for
   family to witness so this will be on the chart.  We touched on the
   subject of DNR status and whether he would want intubation as we go
   forward.  Yesterday he was sleepy from premedication in setting of
   chemoRx and she did not want us to talk directly to him about this.
   Will approach again today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2167-1-27**] 01:00 PM
   Prophylaxis:
   DVT: Boots, IVC filter
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes